US05879657
Methyl 4-(Methanesulfonylmethyl)benzoate
A solution of methyl 4-(hydroxymethyl)benzoate (10.8 g, 0.065 mol) and proton sponge (19.5 g, 0.091 mol) in DCM (200 ml) was treated with methanesulfonic anhydride (13.94 g, 0.08 mol) and stirred at room temperature for 20 hours. The reaction mixture was washed with 100 ml portions of H2O (1×), 1N HCl (2×), H2O (1×), saturated NaHCO3 (1×), and H2O (1×). The organic phase was dried (MgSO4) and concentrated to give 15.5 g of pale yellow solid. Recrystallization from CCl4 (150 ml) using decolorizing carbon gave product (14.2 g, 90%) as colorless needles, MP 91°-94° C.

reactant | methyl 4-(hydroxymethyl)benzoate | 0.065 mol, 10.8 g | OCC1=CC=C(C(=O)OC)C=C1 | C9H10O3
reactant | proton sponge | 0.091 mol, 19.5 g | CN(C)C1=CC=CC2=C1C(=CC=C2)N(C)C | C14H18N2
reactant | methanesulfonic anhydride | 0.08 mol, 13.94 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
product | Methyl 4-(Methanesulfonylmethyl)benzoate | 15.5 g | CS(=O)(=O)CC1=CC=C(C(=O)OC)C=C1 | C10H12O4S
